US03953442
e. 5-chloro-1-(4-fluorophenyl)-3-[2-(1,3-dioxolan-2-yl)propyl] indole
A mixture of 15g (0.067 mole) of 5-chloro-3-[2-(1,3-dioxolan-2-yl)propyl] indole, 225 ml of anisole, 30g (0.135 mole) of 4-fluoroiodobenzene, 30g of copper powder and 60g of dry sodium carbonate are heated to reflux for 96 hours.

reactant | 5-chloro-3-[2-(1,3-dioxolan-2-yl)propyl] indole | ClC=1C=C2C(=CNC2=CC1)CC(C)C1OCCO1 | C14H16ClNO2
reactant | anisole | 225 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 4-fluoroiodobenzene | FC1=CC=C(C=C1)I | C6H4FI
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | copper | [Cu] | Cu
product | 5-chloro-1-(4-fluorophenyl)-3-[2-(1,3-dioxolan-2-yl)propyl] indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)CC(C)C1OCCO1 | C20H19ClFNO2
